US03968150
Employing a system similar to that of Example 1, 7.30 parts (0.044 mole) of triethylphosphite is added to a solution of 16.5 parts (0.044 mole) of 2,3-bis(difluoramino)-propyl α,β-dibromopropionate in 100 ml. of dry benzene. The addition is made over a period of 30 minutes. A slightly exothermic reaction (25° to 36° C.) is observed. The mixture is stirred at ambient temperature for 24 hours, freed of solvent and distilled to give 2.89 parts (30 percent) of 2,3-bis(difluoramino)propyl acrylate (b.p. 42° C., 0.45 mm. of mercury). The product conforms to the known 2,3-bis(difluoramino)propyl acrylate. The product gives the following analysis:

reactant | triethylphosphite | 0.044 mole | C(C)OP(OCC)OCC | C6H15O3P
reactant | 2,3-bis(difluoramino)-propyl α,β-dibromopropionate | 0.044 mole | BrC(C(=O)OCC(CN(F)F)N(F)F)CBr | C6H8Br2F4N2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,3-bis(difluoramino)propyl acrylate | 30 percent | C(C=C)(=O)OCC(CN(F)F)N(F)F | C6H8F4N2O2
